US07419984B2
A mixture of sodium periodate (12 g, 56 mmol), iodine (9.5 g, 37 mmol), acetic acid (80 ml) and acetic anhydride (40 ml) was cooled to 0° C. Sulfuric acid (18 ml) was added dropwise followed by 1-chloro-4-ethyl benzene (15 ml, 110 mmol) dropwise. After stirring for 18 hours, a solution of sodium sulfite (20 g) in water (300 ml) was added. The mixture was adjusted to about pH 7 by addition of 50% aqueous sodium hydroxide solution and treated with ethyl acetate (200 ml) and saturated aqueous sodium chloride solution (200 ml). The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The residual oil was purified by vacuum distillation (95-100° C., 5-10 mm) followed by flash chromatography on silica gel eluting with hexane to afford 4-chloro-1-ethyl-2-iodo-benzene (7.5 g, 25% yield) as a colorless oil.

reactant | sodium periodate | 56 mmol, 12 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | iodine | 37 mmol, 9.5 g | II | I2
reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Sulfuric acid | 18 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-chloro-4-ethyl benzene | 110 mmol, 15 ml | ClC1=CC=C(C=C1)CC | C8H9Cl
reactant | sodium sulfite | 20 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
solvent | water | 300 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 4-chloro-1-ethyl-2-iodo-benzene | 7.5 g, 25% yield | ClC1=CC(=C(C=C1)CC)I | C8H8ClI
